US06723722B1
A solution of tert-butoxycarbonylhydrazine (3.96 g) and N-benzyloxycarbonyl-N-(2,2-diethoxyethyl) glycine (9.76 g) in acetonitrile (100 ml) was treated with WSC (5.75 g) and stirred at room temperature for 15 hours. The reaction mixture was concentrated to obtain a residue, which was partitioned between ethyl acetate and water, and then the organic phase was washed with water, aqueous sodium bicarbonate, aqueous solution of citric acid and brine, dried and then concentrated. The residue obtained was dissolved in toluene (200 ml), combined with p-toluenesulfonic acid hydrate (285 mg) and then stirred at 100° C. for 90 minutes. The reaction mixture was washed with saturated aqueous sodium bicarbonate and brine, dried and then concentrated. The residue thus obtained was purified by a column chromatography on a silica gel (hexane:ethyl acetate=3:2) to obtain 4-benzyloxycarbonyl-1-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydropyrazine (1.84 g) as a colorless oil.

reactant | tert-butoxycarbonylhydrazine | 3.96 g | C(C)(C)(C)OC(=O)NN | C5H12N2O2
reactant | N-benzyloxycarbonyl-N-(2,2-diethoxyethyl) glycine | 9.76 g | C(C1=CC=CC=C1)OC(=O)N(CC(=O)O)CC(OCC)OCC | C16H23NO6
reactant | WSC | 5.75 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | p-toluenesulfonic acid hydrate | 285 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-benzyloxycarbonyl-1-(tert-butoxycarbonylamino)-2-oxo-1,2,3,4-tetrahydropyrazine | 1.84 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(C=C1)NC(=O)OC(C)(C)C)=O | C17H21N3O5
